US05268377
Methyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)-biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-4-carboxylate and ethoxycarbonylacetic acid are treated in the same manner as in Example 8-(1) to give methyl 2-n-propyl-5-ethoxycarbonylacetyl-3-(2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-4-carboxylate.

reactant | Methyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)-biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-4-carboxylate | C(CC)C1=NC2=C(C(NCC2)C(=O)OC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H27N7O2
reactant | ethoxycarbonylacetic acid | C(C)OC(=O)CC(=O)O | C5H8O4
product | methyl 2-n-propyl-5-ethoxycarbonylacetyl-3-(2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-4-carboxylate | C(CC)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C30H33N7O5
